US04539328
A stirred solution of 2-(4-fluorophenyl)-2-hydroxyiminoacetonitrile (42.8 g, 0.26 mole) in 200 ml of pyridine was cooled to 0° C., and p-toluenesulfonyl chloride (76.0 g, 0.39 mole) was added portionwise. Upon complete addition, the reaction mixture was stirred at 0°-5° C. for one hour and then stored in a refrigerator for 16 hours. The resultant slurry was poured into a mixture of ice and water and stirred for 30 minutes. The mixture was then filtered and the white filter cake dried under vacuum without heat to give 2-(4-fluorophenyl)-2-(4-methylphenylsulfonyloxy)iminoacetonitrile (77.3 g, mp 129°-140° C.).

reactant | 2-(4-fluorophenyl)-2-hydroxyiminoacetonitrile | 0.26 mole, 42.8 g | FC1=CC=C(C=C1)C(C#N)=NO | C8H5FN2O
reactant | p-toluenesulfonyl chloride | 0.39 mole, 76.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-fluorophenyl)-2-(4-methylphenylsulfonyloxy)iminoacetonitrile | 77.3 g | FC1=CC=C(C=C1)C(C#N)=NOS(=O)(=O)C1=CC=C(C=C1)C | C15H11FN2O3S
